US08865712B2
To a solution of 2-amino-2-(6-bromo-pyridin-2-yl)-propan-1-ol (4.9 g, 21.2 mmol) in DCM (50 ml) was added K2CO3 (5.86 g, 42.4 mmol). The reaction mixture was cooled to 0° C. and 2-chloroacetyl chloride (2.55 ml, 3.59 g, 31.8 mmol) was added dropwise. The reaction mixture was allowed to warm to rt and to stir for 5 h. MeOH (20 ml) was added and stirring was continued at rt for 1 h. The reaction mixture was diluted with H2O and DCM, the phases were separated and the aq. phase was twice extracted with DCM. The combined org. phases were dried over Na2SO4, filtered and the solvent was removed to leave N-[1-(6-bromo-pyridin-2-yl)-2-hydroxy-1-methyl-ethyl]-2-chloro-acetamide as an orange oil. HPLC RtH4=0.73-0.77 min; ESIMS: 307, 309 [(M+H)+]; 1H NMR (400 MHz, DMSO-d6): δ 8.35 (s, 1H), 7.70-7.66 (m, 1H), 7.48 (dd, 1H), 7.38 (dd, 1H), 5.05-5.02 (m, 1H), 4.14 (s, 2H), 3.68-3.66 (m, 2H), 1.55 (s, 3H).

reactant | 2-amino-2-(6-bromo-pyridin-2-yl)-propan-1-ol | 21.2 mmol, 4.9 g | NC(CO)(C)C1=NC(=CC=C1)Br | C8H11BrN2O
reactant | K2CO3 | 42.4 mmol, 5.86 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloroacetyl chloride | 31.8 mmol, 2.55 ml, 3.59 g | ClCC(=O)Cl | C2H2Cl2O
reactant | MeOH | 20 ml | CO | CH4O
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | N-[1-(6-bromo-pyridin-2-yl)-2-hydroxy-1-methyl-ethyl]-2-chloro-acetamide | BrC1=CC=CC(=N1)C(CO)(C)NC(CCl)=O | C10H12BrClN2O2
